US07652008B2
(3R*,4S*)-7-chloro-2,2,9-trimethyl-4-pentylamino-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol
To a solution of (3R*,4S*)-4-amino-7-chloro-2,2,9-trimethyl-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol (60 mg, 0.205 mmol) in methanol (1.2 mL), butyl aldehyde (35 mg, 0.041 mmol) was added, and the resulting mixture was stirred at room temperature for 20 minutes. Sodium cyanoborohydride (52 mg, 0.82 mmol) was added thereto, and the resulting mixture was stirred at room temperature for 1 hour. Upon the completion of the reaction, saturated aqueous sodium hydrogencarbonate solution was added thereto, and the resulting solution was extracted with ethyl acetate, washed with saturated sodium chloride solution, and dried over magnesium sulfate and concentrated. The resulting mixture was purified by silica gel column (hexane/ethyl acetate=3/1) to obtain the aimed product (yield: 41%).

reactant | (3R*,4S*)-4-amino-7-chloro-2,2,9-trimethyl-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol | 0.205 mmol, 60 mg | N[C@@H]1[C@H](C(OC2=CC=3C(=CC(=NC3C=C21)Cl)C)(C)C)O | C15H17ClN2O2
reactant | Sodium cyanoborohydride | 0.82 mmol, 52 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 1.2 mL | CO | CH4O
product | (3R*,4S*)-7-chloro-2,2,9-trimethyl-4-pentylamino-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol | yield: 41% | ClC1=NC=2C=C3C(=CC2C(=C1)C)OC([C@@H]([C@H]3NCCCCC)O)(C)C | C20H27ClN2O2
